US08071592B2
(d) 2-Oxo-1-(2-propen-1-yl)-1,2-dihydro-7-quinolinecarbonitrile
A mixture of 7-cyano-1-(2-propen-1-yl)quinolinium iodide (1.75 g, 5.4 mmol), potassium hydroxide (1.33 g, 23.76 mmol) and potassium ferricyanide (3.9 g, 11.9 mmol) in 50% 1,4-dioxane/water was stirred at rt for 2 h. Water (50 ml) was then added and the organic phase was extracted with 10% methanol/DCM (2×100 ml). The combined organic phases were washed with water (100 ml) then dried and evaporated. The residue was chromatographed on silica gel, eluting with 0-5% methanol-DCM to afford the desired compound (0.6 g, 55%).

reactant | 7-cyano-1-(2-propen-1-yl)quinolinium iodide | 5.4 mmol, 1.75 g | [I-].C(#N)C1=CC=C2C=CC=[N+](C2=C1)CC=C
reactant | potassium hydroxide | 23.76 mmol, 1.33 g | [OH-].[K+]
reactant | Water | 50 ml | O | H2O
solvent | 1,4-dioxane water | O1CCOCC1.O
catalyst | potassium ferricyanide | 11.9 mmol, 3.9 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 2-Oxo-1-(2-propen-1-yl)-1,2-dihydro-7-quinolinecarbonitrile | 0.6 g, 55% | O=C1N(C2=CC(=CC=C2C=C1)C#N)CC=C | C13H10N2O
